US07129232B2
To a suspension of 1,1′-carbonyldiimidazole (1.94 g) in methylene chloride (20 ml) was added tert-butyl N-(3-aminopropyl)carbamate (2.30 g), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture were added N-ethyldiisopropylamine (2.56 g) and 4,5-diamino-1-methylpyrazole sulfuric acid salt, (2.10 g), and the mixture was stirred at 30° C. for 3 days. The reaction mixture was concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with 6% methanol/chloroform to give 5-amino-4-(3-{3-[(tert-butoxycarbonyl)amino]propyl}ureido)-1-methylpyrazole (1.75 g) as a solid.

reactant | 1,1′-carbonyldiimidazole | 1.94 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tert-butyl N-(3-aminopropyl)carbamate | 2.30 g | NCCCNC(OC(C)(C)C)=O | C8H18N2O2
reactant | N-ethyldiisopropylamine | 2.56 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4,5-diamino-1-methylpyrazole sulfuric acid salt | 2.10 g | S(O)(O)(=O)=O.NC=1C=NN(C1N)C
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-amino-4-(3-{3-[(tert-butoxycarbonyl)amino]propyl}ureido)-1-methylpyrazole | 1.75 g | NC1=C(C=NN1C)NC(=O)NCCCNC(=O)OC(C)(C)C | C13H24N6O3
